US03962438
A solution of 56.5 g. (0.172 mol.) of 8-trifluoromethylphenothiazine-1-carboxylic acid chloride in 450 ml. of acetone was added over a 15 minute period to a stirred solution of 25.0 g. (0.257 mol.) of potassium thiocyanate in 200 ml. of acetone. The resulting reddish brown suspension was stirred at 25° for 1.5 hours. The reaction mixture was concentrated under reduced pressure to approximately 300 ml. then diluted with 700 ml. of water. The product was collected by filtration and washed thoroughly with water to give 8-trifluoromethylphenothiazine-1-carboxylic acid isothiocyanate, m.p. 145°-150°.

reactant | 8-trifluoromethylphenothiazine-1-carboxylic acid chloride | 0.172 mol | FC(C1=CC=C2SC=3C=CC=C(C3NC2=C1)C(=O)Cl)(F)F | C14H7ClF3NOS
reactant | potassium thiocyanate | 0.257 mol | [S-]C#N.[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 8-trifluoromethylphenothiazine-1-carboxylic acid isothiocyanate | FC(C1=CC=C2SC=3C=CC=C(C3NC2=C1)C(=O)N=C=S)(F)F | C15H7F3N2OS2
